US08198269B2
(3) Synthesis of (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine
DMAP (847 mg) and di-tert-butyl dicarbonate (1.51 g) were added to a solution of (±)-(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine (770 mg) in THF (10 ml). The mixture was stirred at room temperature for three hours, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (1.07 g).

reactant | di-tert-butyl dicarbonate | 1.51 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (±)-(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 770 mg | BrC=1C=C(SC1)[C@]12COCC[C@H]2CSC(=N1)N | C11H13BrN2OS2
catalyst | DMAP | 847 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 1.07 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@@]2(COCC[C@H]2CS1)C=1SC=C(C1)Br | C21H29BrN2O5S2
